US04831034
A solution of 1-(4-methylbenzyl)piperazine (14 g) in tetrahydrofuran (30 cc) is added in the course of 15 minutes at a temperature in the region of 20° C. to a stirred solution of 3-phenyl-3-(2-pyridyl)propenal (5.4 g) in tetrahydrofuran (150 cc), and the mixture is left with stirring for 8 hours at a temperature in the region of 66° C. After the solution is cooled to a temperature in the region of 20° C., the reaction mixture is evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The residue obtained is dissolved in ethyl ether (50 cc) and the solution obtained poured onto silica (400 g) contained in a column 4.7 cm in diameter. Elution is performed with a mixture (300 cc) of ethyl ether and petroleum ether (40°-65° C.) (80:20 by volume) and the corresponding eluate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The oil obtained is dissolved in boiling ethyl ether (200 cc). A boiling 2.5N solution (3 cc) of hydrochloric acid in ethyl alcohol is added. After the mixture is cooled to a temperature in the region of 20° C, the precipitate formed is separated by filtration and then recrystallized in boiling ethyl alcohol (400 cc). 3-[4-(4-Methylbenzyl)-1-piperazinyl]-1-phenylindolizine hydrochloride (3.1 g), m.p. 210° C. with decomposition, is thereby obtained.

reactant | 1-(4-methylbenzyl)piperazine | 14 g | CC1=CC=C(CN2CCNCC2)C=C1 | C12H18N2
reactant | 3-phenyl-3-(2-pyridyl)propenal | 5.4 g | C1(=CC=CC=C1)C(=CC=O)C1=NC=CC=C1 | C14H11NO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
solvent | ethyl ether | 50 cc | C(C)OCC | C4H10O
solvent | ethyl alcohol | C(C)O | C2H6O
solvent | ethyl ether | 200 cc | C(C)OCC | C4H10O
product | 3-[4-(4-Methylbenzyl)-1-piperazinyl]-1-phenylindolizine hydrochloride | 3.1 g | Cl.CC1=CC=C(CN2CCN(CC2)C2=CC(=C3C=CC=CN23)C2=CC=CC=C2)C=C1 | InChI=1S/C26H27N3.ClH/c1-21-10-12-22(13-11-21)20-27-15-17-28(18-16-27)26-19-24(23-7-3-2-4-8-23)25-9-5-6-14-29(25)26;/h2-14,19H,15-18,20H2,1H3;1H
